US05070089
i) 2,5-Dimethoxybenzyl chloride
In a nitrogen atmosphere, 2.00 g (11.9 mmol.) of 2,5-dimethoxybenzyl alcohol was dissolved in 10 ml of dichloromethane. The obtained solution was placed in an ice-bath, and to this was dropwise added a solution of 0.87 ml (12.0 mmol.) of thionyl chloride in 2 ml of dichloromethane. The mixture was then stirred at room temperature for 1.5 hour. The mixture was placed under reduced pressure at room temperature to distill off the solvent to give 2.22 g of the desired compound as a pale yellow oil.

reactant | 2,5-dimethoxybenzyl alcohol | 11.9 mmol, 2.00 g | COC1=C(CO)C=C(C=C1)OC | C9H12O3
reactant | thionyl chloride | 12.0 mmol, 0.87 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2,5-Dimethoxybenzyl chloride | 2.22 g | COC1=C(CCl)C=C(C=C1)OC | C9H11ClO2
